US07390818B2
A) N′-(4-Bromophenyl)formohydrazide
10.0 g of 4-bromophenylhydrazine hydrochloride are dissolved in 30 ml of water. 6.2 g of K2CO3 and 36 ml of methyl formate are added and then the mixture is heated at reflux for one hour and then at ambient temperature for 12 hours. The precipitate formed is filtered off and washed with an isopropanol/petroleum ether (v/v; 50/50) mixture. 10.5 g of the expected product are obtained.

reactant | 4-bromophenylhydrazine hydrochloride | 10.0 g | Cl.BrC1=CC=C(C=C1)NN
reactant | K2CO3 | 6.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl formate | 36 ml | C(=O)OC | C2H4O2
solvent | water | 30 ml | O | H2O
product | N′-(4-Bromophenyl)formohydrazide | 10.5 g | BrC1=CC=C(C=C1)NNC=O | C7H7BrN2O
